data/mechanism_extracts/Synthesis/10.1055_s-0036-1589051.json
{"doi": "10.1055_s-0036-1589051", "journal": "Synthesis", "is_review": false, "rxn_class_summary": "Electrochemical synthesis of β-hydroxysulfones from α-methylstyrenes and sodium sulfinates via iodide-mediated anodic generation of sulfonyl iodide, sulfonyl radical addition, and oxidation/hydration of a benzylic cation", "mechanism_family": ["mediator_anodic", "radical_polar_crossover", "radical_anodic", "cation_initiated"], "electrochemical_role": "Anodic oxidation of iodide (I-) to I2 at the glassy carbon electrode; I2 then reacts with sulfinate (TolSO2Na, 5a) to give the sulfonyl iodide mediator (TolSO2I, intermediate I), which homolyzes to a sulfonyl radical that adds to the styrene; the resulting benzylic radical is further oxidized (loss of e-) at the anode to a tertiary benzylic carbocation", "key_intermediates": [{"name": "p-toluenesulfonyl iodide (TolSO2I, intermediate I)", "smiles": "Cc1ccc(S(=O)(=O)I)cc1", "role": "reactive"}, {"name": "p-toluenesulfonyl radical", "smiles": "Cc1ccc(S(=O)(=O)[O])cc1", "role": "transient"}, {"name": "benzylic carbon radical from sulfonyl addition to α-methylstyrene (intermediate II)", "smiles": "Cc1ccc(S(=O)(=O)CC([CH3])([CH2])c2ccccc2)cc1", "role": "transient"}, {"name": "tertiary benzylic carbocation (intermediate III)", "smiles": "Cc1ccc(S(=O)(=O)CC(C)([C+])c2ccccc2)cc1", "role": "reactive"}, {"name": "iodine (I2)", "smiles": "II", "role": "reactive"}, {"name": "iodide (I-)", "smiles": "[I-]", "role": "resting_state"}], "electron_flow": "Anode oxidizes I- to I2; I2 reacts with sulfinate to give TolSO2I, which homolyzes into a sulfonyl radical (adding to the alkene) and an iodine radical (regenerating I2 catalytic cycle). The resulting benzylic radical loses a second electron at the anode to form a tertiary carbocation, which is trapped by water to deliver the β-hydroxysulfone.", "rate_determining_step": null, "probe_reagents": [{"name": "electron-rich styrene 7d (3,4-dimethoxy substituted)", "smiles": null, "purpose": "other", "observation": "Tolerates dehydration; isolated as allyl sulfone 9 in 91% yield, consistent with intermediate carbocation III that can eliminate when stabilized"}, {"name": "simple styrene 10", "smiles": "C=Cc1ccccc1", "purpose": "other", "observation": "Gave β-hydroxysulfone 11 in 90% yield, supporting general applicability of the proposed cation/hydration pathway"}], "evidence_types_used": ["isolation_of_intermediate", "stoichiometric_intermediate"], "evidence_strength": "weak", "notes": "The mechanism is presented as 'possible' (Scheme 4) and supported indirectly by product distributions: electron-rich substrates give the allyl sulfone via dehydration of the carbocation III, consistent with a cation intermediate. No radical traps (TEMPO/BHT), KIE, CV, or DFT data are reported on these mechanism pages. X-ray crystallography was used to confirm product structure, not mechanism."}
